US06919365B2
5,5-Dimethyl-1,3-bis-(2-naphthylsulfonyl)imidazolidine-2,4-dione (Compound 35)
5,5-Dimethylimidazolidine-2,4-dione (1.28 g) was dissolved in tetrahydrofuran (20 mL), and sodium hydride (60%, in oil) (0.25 g) was added at 0° C. under ice-cooling. After stirred for 30 minutes, 2-naphthalenesulfonyl chloride (2.38 g) was added at 0° C., and the mixture was stirred at room temperature overnight. After the solvent was distilled off, ethyl acetate (150 mL) was added to the reaction solution, and the solution was washed with 1N hydrochloric acid, an aqueous saturated sodium bicarbonate solution and a saturated brine in turn. After drying over anhydrous magnesium sulfate, the solvent was distilled off. Further purification by silica gel chromatography (hexane:ethyl acetate=2:1) afforded 597 mg of white crystals.

reactant | 5,5-Dimethylimidazolidine-2,4-dione | 1.28 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | sodium hydride | 0.25 g | [H-].[Na+]
reactant | 2-naphthalenesulfonyl chloride | 2.38 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 5,5-Dimethyl-1,3-bis-(2-naphthylsulfonyl)imidazolidine-2,4-dione | 597 mg | CC1(C(N(C(N1S(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O)C | C25H20N2O6S2
